US07759337B2
To a mixture of benzyl (R)-1-hydroxypropan-2-yl((R)-2-hydroxypropyl)carbamate (15.5 g, 58 mmol) in 150 mL THF stirred at 0° C. was added triphenyl phosphine (15 mL, 64 mmol) and stirred for 30 min. The mixture was further treated with diethyl azodicarboxylate (10 mL, 64 mmol) dropwise. The mixture was stirred at 0° C.—RT over 15 h. The mixture was concentrated in vacuo, then was treated with 4:1 hexane/ether 300 mL to precipitate the triphenylphosine oxide. The mixture was filtrated and washed with 4:1 hexane/ether 100 mL. The liquid was concentrated and purified by silica gel chromatography eluting with 20% ethyl acetate/hexane to give (2R,5R)-benzyl 2,5-dimethylmorpholine-4-carboxylate as a colorless oil.

reactant | benzyl (R)-1-hydroxypropan-2-yl((R)-2-hydroxypropyl)carbamate | 58 mmol, 15.5 g | OC[C@@H](C)N(C(OCC1=CC=CC=C1)=O)C[C@@H](C)O | C14H21NO4
reactant | triphenyl phosphine | 64 mmol, 15 mL | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 64 mmol, 10 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | (2R,5R)-benzyl 2,5-dimethylmorpholine-4-carboxylate | C[C@@H]1CN([C@@H](CO1)C)C(=O)OCC1=CC=CC=C1 | C14H19NO3
